US04086221
BOC-Ala-Gly-OBzl (101 g.) was dissolved in THF (500 ml.) and hydrogenized with 5% palladium/carbon (7 g.). After 6 hours, the catalyst was removed, concentrated, dissolved in THF (800 ml.), then again hydrogenized with 5% palladium/carbon. After 4 hours, the catalyst was removed and concentrated in vacuo, and the residue was solidified by treating with n-hexane. The solid residue was recrystallized by ethyl acetate - THF - n-hexane to obtain BOC-Ala-Gly-OH (72 g., Yield: 97.4%, m.p.: 129° - 132° C.). TLC: one spot (solvent system 3). [α]D28 = -8.87° (c=1, DMF).

reactant | BOC-Ala-Gly-OBzl | 101 g | N([C@@H](C)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H24N2O5
solvent | THF | 500 ml | C1CCOC1 | C4H8O
catalyst | palladium/carbon | 7 g | [Pd] | Pd
product | BOC-Ala-Gly-OH | 72 g, Yield: 97.4% | N([C@@H](C)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C10H18N2O5
